US08008303B2
2′-Chloro-5′-(2-fluoro-4-morpholin-4-yl-phenylcarbamoyl)-biphenyl-4-carboxylic acid ethyl ester
A mixture of 6-chloro-biphenyl-3,4′-dicarboxylic acid 4′-ethyl ester (213 mg), 3-fluoro-4-morpholin-4-yl-phenylamine (179 mg), EDAC (174 mg), HOBT (123 mg) and N-methylmorpholine (200 μl) in DMF (3 ml) was stirred at room temperature. After 11 h, water (30 ml) was added and the resulting suspension filtered. The residue was then purified by chromatography. Elution with 1:1 ethyl acetate:petrol gave a brown oil (235 mg).

reactant | 6-chloro-biphenyl-3,4′-dicarboxylic acid 4′-ethyl ester | 213 mg | C(C)OC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1Cl)C(=O)O | C16H13ClO4
reactant | 3-fluoro-4-morpholin-4-yl-phenylamine | 179 mg | FC=1C=C(C=CC1N1CCOCC1)N | C10H13FN2O
reactant | EDAC | 174 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 123 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methylmorpholine | 200 μl | CN1CCOCC1 | C5H11NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | water | 30 ml | O | H2O
product | 2′-Chloro-5′-(2-fluoro-4-morpholin-4-yl-phenylcarbamoyl)-biphenyl-4-carboxylic acid ethyl ester | 235 mg | C(C)OC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)C(NC1=C(C=C(C=C1)N1CCOCC1)F)=O)Cl | C26H24ClFN2O4
